US04435422
(±) 6,7-Dichloro-2,3-dihydro-5-(p-nitrobenzoyl)-benzofuran-2-carboxylic Acid
A solution of ethyl 6,7-dichloro-2,3-dihydrobenzofuran-2-carboxylate (10.0 g.) and p-nitrobenzoyl chloride (14.2 g.) in methylene chloride (40 ml.) was placed on a cold water bath with mechanical agitation and treated with aluminum chloride (15.3 g.) portionwise over 5 minutes. The bath was then heated at 80°-90° C. for 1 hour and removed, and the mixture diluted with 100 ml. of methylene chloride.

reactant | ethyl 6,7-dichloro-2,3-dihydrobenzofuran-2-carboxylate | 10.0 g | ClC1=C(C2=C(CC(O2)C(=O)OCC)C=C1)Cl | C11H10Cl2O3
reactant | p-nitrobenzoyl chloride | 14.2 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | aluminum chloride | 15.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | (±) 6,7-Dichloro-2,3-dihydro-5-(p-nitrobenzoyl)-benzofuran-2-carboxylic Acid | ClC1=C(C2=C(CC(O2)C(=O)O)C=C1C(C1=CC=C(C=C1)[N+](=O)[O-])=O)Cl | C16H9Cl2NO6
